US07696223B2
a) [(4-Bromo-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of 4-bromo-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester (191 mg, 0.50 mmole) and glycine (1.33 g, 17.69 mmole) in 0.5 M sodium methoxide/methanol (25.3 ml) was refluxed for 28 h before it was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water (120 ml) and extracted with dichloromethane (3×100 ml). The remaining aqueous layer was acidified to pH=2 with 1N HCl. The resulting precipitate was filtered, washed with water and dried in vacuo to give the title compound as a yellow solid (137 mg). MS: (+) m/z 408.12, 410.09 (M+1, 79Br/8tBr), (−) m/z 406.08, 408.05 (M−1, 79Br/81Br).

reactant | 4-bromo-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester | 0.50 mmole, 191 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)Br)SC(=N2)C2=CC=CC=C2)O | C15H11BrN2O3S
reactant | glycine | 17.69 mmole, 1.33 g | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 25.3 ml | C[O-].[Na+].CO
product | [(4-Bromo-7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carbonyl)-amino]-acetic acid | 137 mg | BrC1=NC(=C(C2=C1SC(=N2)C2=CC=CC=C2)O)C(=O)NCC(=O)O | C15H10BrN3O4S
